Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
[O:1]=[C:2]([O:3][CH2:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[N:11]1[CH2:12][CH2:13][N:14]([C:15]([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)([c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[c:28]2[cH:29][cH:30][cH:31][cH:32][cH:33]2)[C@H:34]([CH2:35][OH:36])[CH2:37]1>>[O:1]=[C:2]([O:3][CH2:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[N:11]1[CH2:12][CH2:13][N:14]([C:15]([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)([c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[c:28]2[cH:29][cH:30][cH:31][cH:32][cH:33]2)[C@H:34]([CH:35]=[O:36])[CH2:37]1,[O:1]=[C:2]([O:3][CH2:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[N:11]1[CH2:12][CH2:13][N:14]([C:15]([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)([c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[c:28]2[cH:29][cH:30][cH:31][cH:32][cH:33]2)[C@H:34]([CH2:35][OH:36])[CH2:37]1.[Cl:301][C:302](=[O:303])[C:304](=[O:305])[Cl:306].[CH3:307][S:308](=[O:309])C.CC[N:310](CC)CC>>[O:1]=[C:2]([O:3][CH2:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[N:11]1[CH2:12][CH2:13][N:14]([C:15]([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)([c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[c:28]2[cH:29][cH:30][cH:31][cH:32][cH:33]2)[C@H:34]([CH:35]=[O:36])[CH2:37]1,Swern_oxidation,"[([308, 309], 304), ([304, 305], 305), (305, [305, 304]), ([304, 306], 306), (306, 308), ([308, 309], [309, 304]), ([304, 302], 302), ([302, 301], 301), (36, 308), ([308, 306], 306), (306, 36.1), ([36.1, 36], 36), (310, 307.1), ([307.1, 307], 307), (301, 310.1), ([310.1, 310], 310), (307, 35.1), ([35.1, 35], [35, 36]), ([36, 308], 308)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)[Si](C)(C)[O:1][c:2]1[cH:3][cH:4][c:5]2[n:6][cH:7][c:8](-[c:9]3[cH:10][cH:11][c:12]([N:13]([CH3:14])[CH3:15])[cH:16][cH:17]3)[n:18][c:19]2[cH:20]1>>[OH:1][c:2]1[cH:3][cH:4][c:5]2[n:6][cH:7][c:8](-[c:9]3[cH:10][cH:11][c:12]([N:13]([CH3:14])[CH3:15])[cH:16][cH:17]3)[n:18][c:19]2[cH:20]1,CC(C)(C)[Si:101](C)(C)[O:1][c:2]1[cH:3][cH:4][c:5]2[n:6][cH:7][c:8](-[c:9]3[cH:10][cH:11][c:12]([N:13]([CH3:14])[CH3:15])[cH:16][cH:17]3)[n:18][c:19]2[cH:20]1.[F-:301]>>[OH:1][c:2]1[cH:3][cH:4][c:5]2[n:6][cH:7][c:8](-[c:9]3[cH:10][cH:11][c:12]([N:13]([CH3:14])[CH3:15])[cH:16][cH:17]3)[n:18][c:19]2[cH:20]1,SN2,"[(301, 101), ([101, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
F[c:1]1[cH:2][cH:3][c:4]([C:5]#[N:6])[c:7]([C:8]([F:10])([F:9])[F:11])[cH:12]1.[OH:13][CH2:14][CH2:15][CH2:16][N:17]1[CH2:18][CH2:19][CH2:20][CH2:21][CH2:22]1>>[c:1]1([O:13][CH2:14][CH2:15][CH2:16][N:17]2[CH2:18][CH2:19][CH2:20][CH2:21][CH2:22]2)[cH:2][cH:3][c:4]([C:5]#[N:6])[c:7]([C:8]([F:9])([F:10])[F:11])[cH:12]1,[F:101][c:1]1[cH:2][cH:3][c:4]([C:5]#[N:6])[c:7]([C:8]([F:9])([F:10])[F:11])[cH:12]1.[OH:13][CH2:14][CH2:15][CH2:16][N:17]1[CH2:18][CH2:19][CH2:20][CH2:21][CH2:22]1.[H-:301].[Na+]>>[c:1]1([O:13][CH2:14][CH2:15][CH2:16][N:17]2[CH2:18][CH2:19][CH2:20][CH2:21][CH2:22]2)[cH:2][cH:3][c:4]([C:5]#[N:6])[c:7]([C:8]([F:9])([F:10])[F:11])[cH:12]1,SNAr_alco(thi)ol(para),"[(301, 13.1), ([13.1, 13], 13), (13, 1), ([1, 12], [12, 7]), ([7, 4], [4, 5]), ([5, 6], 6), (6, [6, 5]), ([5, 4], [4, 7]), ([7, 12], [12, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])OC(OC(C)(C)C)=O.[NH2:8][c:9]1[cH:10][cH:11][c:12]([OH:13])[cH:14][c:15]1[C:16](=[O:17])[OH:18]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[NH:8][c:9]1[cH:10][cH:11][c:12]([OH:13])[cH:14][c:15]1[C:16](=[O:17])[OH:18],CC(C)(C)[O:202][C:201](=O)[O:101][C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7].[NH2:8][c:9]1[cH:10][cH:11][c:12]([OH:13])[cH:14][c:15]1[C:16](=[O:17])[OH:18]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[NH:8][c:9]1[cH:10][cH:11][c:12]([OH:13])[cH:14][c:15]1[C:16](=[O:17])[OH:18],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(8, 6), ([6, 7], 7), (7, [7, 6]), ([6, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
